US07196085B2
A stirred mixture of 4-(3-aminobenzyl)-2H-phthalazin-1-one (0.1 g, 0.4 mmol; prepared in a manner similar to that described in Example 1), 3-methylfuran-2,5-dione (0.045 g, 0.4 mmol) and acetic acid (4 ml) was heated under reflux for 8.25 hours and allowed to stand at ambient temperature for 65 hours, then it was diluted with water (10 ml). The resulting solid was collected by filtration, washed with water (10 ml) and dried in vacuo to give 3-methyl-1-[3-(4oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]pyrrole-2,5-dione (0.068 g) as an off-white solid, 250 MHz 1H-nmr (d6-DMSO) δ (ppm): 1.95 (s, 3H) (CH3), 4.3 (s, 2H) (ArCH2—), 6.7 (s, 1H) (—COCH═CMeCO—), 7.15 (d, 1H) (ArH), 7.2 (s, 1H) (ArH), 7.25–7.35 (m, 2H) (2×ArH), 7.7–7.9 (m, 3H) (3×ArH), 8.2 (d, 1H) (ArH), 12.55 (s, 1H) (CONH); m/z (M+H)+. 346, 100% purity.

reactant | 4-(3-aminobenzyl)-2H-phthalazin-1-one | NC=1C=C(CC2=NNC(C3=CC=CC=C23)=O)C=CC1 | C15H13N3O
reactant | 3-methylfuran-2,5-dione | 0.4 mmol, 0.045 g | CC=1C(OC(C1)=O)=O | C5H4O3
reactant | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
product | 3-methyl-1-[3-(4oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]pyrrole-2,5-dione | 0.068 g | CC=1C(N(C(C1)=O)C1=CC(=CC=C1)CC1=NNC(C2=CC=CC=C12)=O)=O | C20H15N3O3
